US08877970B2
1-Amino-2,3-dihydro-1H-indene-5-sulfonamide hydrochloride salt (MIP-1153)
To a round bottom flask containing N-(5-sulfamoyl-2,3-dihydro-1H-inden-1-yl)acetamide (1 g, 3.9 mmol) was added 12N hydrochloric acid (100 mL) and the reaction was heated to a reflux for 2 days. The reaction was cooled and concentrated to afford MIP-1153 (785 mg, 96%) as a light tan solid. 1H NMR (400 MHz, DMSO-d6) δ 7.46-7.20 (m, 3H), 3.78 (br, 6H), 3.21-1.97 (m, 4H); (M+H)+ (212).

reactant | N-(5-sulfamoyl-2,3-dihydro-1H-inden-1-yl)acetamide | 3.9 mmol, 1 g | S(N)(=O)(=O)C=1C=C2CCC(C2=CC1)NC(C)=O | C11H14N2O3S
reactant | hydrochloric acid | 12N, 100 mL | Cl | ClH
product | 1-Amino-2,3-dihydro-1H-indene-5-sulfonamide hydrochloride salt | Cl.NC1CCC2=CC(=CC=C12)S(=O)(=O)N | InChI=1S/C9H12N2O2S.ClH/c10-9-4-1-6-5-7(14(11,12)13)2-3-8(6)9;/h2-3,5,9H,1,4,10H2,(H2,11,12,13);1H
